US07115767B2
2-(tert-Butoxycarbonyl-methyl-amino)-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid
To 2-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid (291 mg, 1.0 mmol) in DMF (2.0 mL) was added MeI (710 mg, 5.0 mmol) and NaH (50%, 250 mg, 5.0 mmol) at 0° C. Ethyl acetate (50 mL) was added after 3 days and the mixture was washed with water (3×15 mL). The material (380 mg) was taken up in methanol (5.0 mL) and water (3.0 mL) and NaOH (10 M, 3.0 mL) was added. After 2 days, 10% HCl was added to adjust the pH˜2 and the mixture was extracted with ethyl acetate (3×20 mL). The organic layers were concentrated in vacuo to provide the titled acid.

reactant | 2-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid | 1.0 mmol, 291 mg | C(C)(C)(C)OC(=O)NC1(CC2=CC=CC=C2CC1)C(=O)O | C16H21NO4
reactant | MeI | 5.0 mmol, 710 mg | CI | CH3I
reactant | NaH | 5.0 mmol, 250 mg | [H-].[Na+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 2-(tert-Butoxycarbonyl-methyl-amino)-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid | C(C)(C)(C)OC(=O)N(C1(CC2=CC=CC=C2CC1)C(=O)O)C | C17H23NO4
